US07071340B2
1.1 eq. of n-butyllithium are added to 104 mg (0.3 mmol) of chloromethyltriphenylphosphonium chloride in solution in tetrahydrofuran cooled to 0° C. After stirring for one hour, 40 mg (0.25 mmol) of 1-benzoxepin-3(2H)-one, prepared according to example 25, are added at ambient temperature and the mixture is left for 1 hour. After the usual treatments and evaporating the solvent under reduced pressure, the crude reaction product is taken up in pentane in order to precipitate triphenylphosphine oxide, to give 25 mg (52%) of 3-(chloromethylene)-2,3-dihydro-1-benzoxepin in the form of two isomers as a Z/E mixture (90/10); 1H NMR (300 MHz, C6D6) 6.98–6.78 (m, 4H), 6.02 (d, J=11.8 Hz, 1H), 5.80 (d, J=11.8 Hz, 1H), 5.68 (s, 1H), 4.65 (4.06) (s, 2H).

reactant | n-butyllithium | 1.1 eq. | C(CCC)[Li]
reactant | chloromethyltriphenylphosphonium chloride | 0.3 mmol, 104 mg | [Cl-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-benzoxepin-3(2H)-one | 0.25 mmol, 40 mg | O1CC(C=CC2=C1C=CC=C2)=O | C10H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 3-(chloromethylene)-2,3-dihydro-1-benzoxepin | 25 mg, 52% | ClC=C1COC2=C(C=C1)C=CC=C2 | C11H9ClO
